US08202865B2
Step 1: Methyl 4-bromo-2-chloro-5-fluorobenzoate
4-bromo-2-chloro-5-fluorobenzoic acid (Apollo PC9723, 5 g; 19.73 mmol; 1 eq.) was dissolved in MeOH (100 mL). The solution was cooled down to 0° C. SOCl2 (4.29 mL; 59.18 mmol; 3 eq.) was added dropwise (addition took 15 min and IT increased to 9° C.). The reaction mixture was stirred at RT for 3 days. The reaction mixture was concentrated and the crude mixture was dissolved in EtOAc (200 mL) and washed with a saturated aqueous solution of NaHCO3(50 mL), brine (50 mL), dried over MgSO4 and concentrated affording the title compound as a white solid (5.04 g, 95%). 1H NMR (DMSO-d6, 300 MHz) δ 8.10-8.08 (d, J=6.30 Hz), 1H), 7.86-7.83 (d, J=8.82 Hz, 1H), 3.87 (s, 3H). HPLC (Method A) Rt 4.32 min (Purity: 99.7%).

reactant | 4-bromo-2-chloro-5-fluorobenzoic acid | 19.73 mmol, 5 g, 1 eq. | BrC1=CC(=C(C(=O)O)C=C1F)Cl | C7H3BrClFO2
reactant | SOCl2 | 59.18 mmol, 4.29 mL, 3 eq. | O=S(Cl)Cl | Cl2OS
reactant | MeOH | 100 mL | CO | CH4O
product | Methyl 4-bromo-2-chloro-5-fluorobenzoate | 5.04 g, 95% | BrC1=CC(=C(C(=O)OC)C=C1F)Cl | C8H5BrClFO2
